US04863920
2.72 g (10 mmol) of 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one was suspended in 30 ml of methanol and cooled to 10°. There were then added simultaneously thereto in portions within about 10 minutes 5 ml of 28% sodium hydroxide solution and 3 g of iodine. After stirring at room temperature for 1 hour the suspension was diluted with about 30 ml of water, suction filtered and the suction filter cake was dried. By two recrystallizations from methylene chloride and ethyl acetate and from dioxane there was obtained 7-chloro-4,5-dihydro-3-(2-iodoethynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one of melting point 215°-216°.

reactant | 7-chloro-3-ethynyl-4,5-dihydro-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | 10 mmol, 2.72 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#C)C)=O | C14H10ClN3O
reactant | sodium hydroxide | 5 ml | [OH-].[Na+]
reactant | iodine | 3 g | II | I2
solvent | methanol | 30 ml | CO | CH4O
solvent | water | about 30 ml | O | H2O
product | 7-chloro-4,5-dihydro-3-(2-iodoethynyl)-5-methyl-6H-imidazo[1,5-a][1,4]benzodiazepin-6-one | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#CI)C)=O | C14H9ClIN3O
